US06566540B2
2,2-Dimethyl-propionic Acid 5-Cyano-2-[1-(4-fluoro-phenyl)-methanoyl]-benzyl Ester
A solution of 4-fluorophenylmagnesium bromide, prepared from 4-fluorobromobenzene (19.2 g, 0.11 mol) and magnesium turnings (3.2 g, 0.13 mol) in dry THF (100 mL), was added dropwise to a suspension of 5-cyanophthalid (15.9 g, 0.1 mol) in dry THF (150 mL). The temperature was kept below 5° C. After the addition was complete, the reaction mixture was stirred overnight at room temperature. Pivaloylchloride (13.3 g, 0.11 mol) was added to the reaction mixture and the temperature was raised to 60° C. for 2 hours. The resulting solution was added to a saturated solution of NH4Cl (100 mL, aq) and ice (50 g). Diethylether (100 mL) was added and the phases were separated. The organic phase was washed with 0.1 N NaOH (2×100 mL) and water (100 mL) and the organic phase was dried with MgSO4 (20 g). Evaporation of the solvents gave a crude title compound (29.8 g, 88%) as an oil which was deemed sufficiently pure for further reaction. A pure sample is obtained by crystallisation from EtOAc/n-Heptane (1:9). The title compound is obtained as off white crystals.

reactant | 4-fluorophenylmagnesium bromide | FC1=CC=C(C=C1)[Mg]Br
reactant | 4-fluorobromobenzene | 0.11 mol, 19.2 g | FC1=CC=C(C=C1)Br | C6H4BrF
reactant | magnesium | 0.13 mol, 3.2 g | [Mg] | Mg
reactant | 5-cyanophthalid | 0.1 mol, 15.9 g | C(#N)C=1C=C2COC(=O)C2=CC1 | C9H5NO2
reactant | Pivaloylchloride | 0.11 mol, 13.3 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | NH4Cl | 100 mL | [NH4+].[Cl-]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | EtOAc n-Heptane | CCOC(=O)C.CCCCCCC
solvent | Diethylether | 100 mL | C(C)OCC | C4H10O
product | 2,2-Dimethyl-propionic Acid 5-Cyano-2-[1-(4-fluoro-phenyl)-methanoyl]-benzyl Ester | C(#N)C=1C=CC(=C(COC(C(C)(C)C)=O)C1)C(=O)C1=CC=C(C=C1)F | C20H18FNO3
